US07723384B2
a) 1-(4-Chlorobutyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione
Analogously to the procedure described in Example 1, reaction of 3,4-dihydro-1H-1-benzazepine-2,5-dione (11.42 mmol, 2.00 g) and bromo-4-chlorobutane (13.7 mmol, 2.35 g) afforded 1.78 g of the title compound, contaminated with reactants to an extent of 30%. The mixture thus obtained was reacted without further purification.

reactant | 3,4-dihydro-1H-1-benzazepine-2,5-dione | 11.42 mmol, 2.00 g | N1C(CCC(C2=C1C=CC=C2)=O)=O | C10H9NO2
reactant | bromo-4-chlorobutane | 13.7 mmol, 2.35 g | BrCCCCCl | C4H8BrCl
product | 1-(4-Chlorobutyl)-3,4-dihydro-1H-1-benzazepine-2,5-dione | 1.78 g | ClCCCCN1C(CCC(C2=C1C=CC=C2)=O)=O | C14H16ClNO2
